US08293735B2
8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1,8-diaza-spiro[4.5]decane-1-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine using 1,8-diaza-spiro[4.5]decane-1-carboxylic acid tert-butyl ester in place of cyclopropanemethylamine. The title compound was obtained as a white solid (184 mg, 45%).

reactant | [1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-cyclopropylmethyl-amine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)NCC2CC2)N2CCOCC2 | C20H28ClN5OS
reactant | 1,8-diaza-spiro[4.5]decane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC12CCNCC2 | C13H24N2O2
product | 8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1,8-diaza-spiro[4.5]decane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC12CCN(CC2)CC2=CC=1N=C(N=C(C1S2)N2CCOCC2)Cl | C24H34ClN5O3S
